US05346896
1-(2-Methoxyphenyl)-4-[2-((α-hydroxy-2-methoxybenzyl)-2-pyridyl)ethyl]piperazine
n-Butyl-lithium (1.6M solution in hexane) (7.0 ml, 11.2 mmol, 1.1 equiv.) was added dropwise at below -60° C. to a solution of 1-(2-methoxyphenyl)-4-(2-pyridylethyl)piperazine base (3.00 g, 10.1 mmol) in anhydrous THF (20 ml). The resulting orange-red solution was stirred for a further 0.25 h at -70° C. then quenched with a solution of ortho-anisaldehyde (1.5 g, 11.0 mmol) in anhydrous THF (2 ml). The reaction mixture was poured into water (50 ml) and extracted with dichloromethane (2×75 ml). The organic extract was washed (brine), dried (Na2SO4) and concentrated in vacuo. The residue was subjected to chromatography (SiO2 :Et2O) to give the first Rf diastereoisomer as a white foam which was dissolved in isopropanol (20 ml) and acidified with ethanolic hydrogen chloride to afford the first diastereoisomer of the title compound as the trihydrochloride (227 mg), m.p. 140°-145° C. (Found: C,57.7;H,6.5;N,7.8 C26H31N3O3.3HCl requires C,57.5;H,6.3;N,7.7%).

reactant | n-Butyl-lithium | 11.2 mmol, 1.6M, 7.0 ml, 1.1 equiv. | C(CCC)[Li]
reactant | 1-(2-methoxyphenyl)-4-(2-pyridylethyl)piperazine | 10.1 mmol, 3.00 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC1=NC=CC=C1 | C18H23N3O
reactant | ortho-anisaldehyde | 11.0 mmol, 1.5 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | water | 50 ml | O | H2O
product | 1-(2-Methoxyphenyl)-4-[2-((α-hydroxy-2-methoxybenzyl)-2-pyridyl)ethyl]piperazine | COC1=C(C=CC=C1)N1CCN(CC1)CCC1=NC=CC=C1C(C1=C(C=CC=C1)OC)O | C26H31N3O3
